US09260425B2
In a microwave reaction vials was charged with 3-iodo-5-(pyridin-3-yl)-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-pyrazolo[3,4-c]pyridine (49.10 mg, 0.11 mmol), 1-methyl-3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole (33.19 mg, 0.16 mmol), 1,1′-Bis(diphenylphosphino)ferrocenepalladium (II) chloride (8.68 mg, 0.011 mmol), 1.00 M of Potassium acetate in Water (0.16 mL, 0.16 mmol), 1.00 M of Sodium carbonate in Water (0.16 mL, 0.16 mmol), and Acetonitrile (3 mL). The reaction mixture was heated under microwave at 150° C. for 5 minutes. The mixture was concentrated to afford 3-(1-methyl-1H-pyrazol-3-yl)-5-(pyridin-3-yl)-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-pyrazolo[3,4-c]pyridine, which was used without purification.

reactant | 3-iodo-5-(pyridin-3-yl)-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-pyrazolo[3,4-c]pyridine | 0.11 mmol, 49.10 mg | IC1=NN(C2=CN=C(C=C21)C=2C=NC=CC2)COCC[Si](C)(C)C | C17H21IN4OSi
reactant | 1-methyl-3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole | 0.16 mmol, 33.19 mg | CN1N=C(C=C1)B1OC(C(O1)(C)C)(C)C | C10H17BN2O2
reactant | Potassium acetate | 1.00 M | C(C)(=O)[O-].[K+]
reactant | Water | 0.16 mmol, 0.16 mL | O | H2O
reactant | Water | 0.16 mmol, 0.16 mL | O | H2O
solvent | Sodium carbonate | 1.00 M | C([O-])([O-])=O.[Na+].[Na+]
catalyst | 1,1′-Bis(diphenylphosphino)ferrocenepalladium (II) chloride | 0.011 mmol, 8.68 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
solvent | Acetonitrile | 3 mL | C(C)#N | C2H3N
product | 3-(1-methyl-1H-pyrazol-3-yl)-5-(pyridin-3-yl)-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-pyrazolo[3,4-c]pyridine | CN1N=C(C=C1)C1=NN(C2=CN=C(C=C21)C=2C=NC=CC2)COCC[Si](C)(C)C | C21H26N6OSi
